US04810713
3-(8-Quinolinyloxy)-1-propanol
A solution of 8-hydroxyquinoline (36.0 g, 0.25 mole) and potassium tert-butoxide (28.0 g, 0.25 mole) in 80 ml of dimethyl sulfoxide was stirred for 1 hr at room temperature. 3-Chloro-1-propanol (24.0 g, 0.25 mole) was added and the solution was heated overnight at 70° C. The solution was poured into 500 ml of water. A brown solid/mass was obtained. The solid was washed with several portions of water and then triturated with acetone. The solid was filtered and dried in vacuo at 80° C. overnight to give 35.67 g (70.3%) of light brown solid, m.p. 126°-127° C.

reactant | 8-hydroxyquinoline | 0.25 mole, 36.0 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | potassium tert-butoxide | 0.25 mole, 28.0 g | CC(C)([O-])C.[K+]
reactant | 3-Chloro-1-propanol | 0.25 mole, 24.0 g | ClCCCO | C3H7ClO
reactant | water | 500 ml | O | H2O
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 3-(8-Quinolinyloxy)-1-propanol | N1=CC=CC2=CC=CC(=C12)OCCCO | C12H13NO2
